US06197766B1
A mixture of 21.0 g 5,6-dihydro-5-hydroxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide (prepared in C above), 13.0 ml triethylamine, and 6.5 ml acetic anhydride was stirred at room temperature for 3 h. The mixture was then concentrated under vacuum to produce a solid residue. The solid residue was taken up in 400 ml dichloromethane and washed twice with 100 ml saturated sodium bicarbonate. The organic phase was then dried over sodium sulfate and concentrated under vacuum to produce 5,6-dihydro-5-acetyloxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide. The structure was confirmed by 1H NMR.

reactant | 5,6-dihydro-5-hydroxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide | 21.0 g | OC1N(N=C(OC1)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C18H13F6N3O3
reactant | triethylamine | 13.0 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 6.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5,6-dihydro-5-acetyloxy-2-[3-(trifluoromethyl)phenyl]-N-[4-(trifluoromethyl)phenyl]-4H-1,3,4-oxadiazine-4-carboxamide | C(C)(=O)OC1N(N=C(OC1)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C20H15F6N3O4
